US06096758
C6. 3-Hydroxybenzyl (2-chloromethyl-3-methylphenyl)carbamate
A mixture of 2-chloromethyl-1-isocyanato-3-methylbenzene (2 g) and 3-hydroxybenzyl alcohol (1.6 g) is warmed to 75° C. in an oil bath for 1 h and then purified by chromatography on silica gel (eluent: dichloromethane/methanol 19:1). 1 g (30%) of the title compound is obtained as a crude product in the form of an amorphous solid.

reactant | 2-chloromethyl-1-isocyanato-3-methylbenzene | 2 g | ClCC1=C(C=CC=C1C)N=C=O | C9H8ClNO
reactant | 3-hydroxybenzyl alcohol | 1.6 g | OC=1C=C(CO)C=CC1 | C7H8O2
product | 3-Hydroxybenzyl (2-chloromethyl-3-methylphenyl)carbamate | 1 g, 30% | ClCC1=C(C=CC=C1C)NC(OCC1=CC(=CC=C1)O)=O | C16H16ClNO3
